US05962744
To a 300 mL stainless steel autoclave with two sapphire windows containing Rh(acac)(CO)2 (1.5 mg, 6×10-3 mmol) and a diphosphite ligand. BIPHEPHOS, MCP-1 or MCP-2, (1.2×10-2 mmol) was added 4-(tert-butoxycarbonylamino)-1,6-heptadiene (127 mg, 0.6 mmol). The air was replaced by CO and CO (7 atm) was introduced followed by H2 (7 atm). The reaction vessel was cooled to -60° C. and CO2 (85 atm) was introduced. The mixture was allowed to stir at 65° C. and 100 atm overnight. The autoclave was cooled to 0° C. and all the gasses were carefully released. The reaction mixture was then concentrated under vacuum and the residue was chromatographed on silica gel using hexane/AcOEt as the eluant to give 1-tert-butoxycarbonyl-2-(3-formylpropyl)-5,6-didehydropiperidine in virtually quantitative yield: Colorless oil; 1H NMR (CDCl3) (two rotamers) δ 1.39-1.77 (m, 17 H), 1.89-2.06 (m, 2 H), 2.47 (br s, 2 H), [4.15 (br s), 4.29 (br s)] (1 H), [4.77 (br s), 4.86 (br s)] (1 H), [6.64 (br d, J=7.8 Hz), 6.78 (br s)], (1 H), 9.76 (s, 1 H); 13C NMR (CDCl3) δ 17.51, 29.97-30.52, 43.67, [48.91, 50.29], 80.49, [104.73, 105.20], [124.06, 124.08], 202.51; IR (neat, cm-1) 2931, 1723, 1697, 1651, 1409, 1361, 1171, 1116. HRMS (CI) calcd for C14H23NO4 ([MH]+): 254.1756. Found: 254.1760.

reactant | diphosphite | [O-]P([O-])OP([O-])[O-]
reactant | BIPHEPHOS | CC(C)(C)C1=C(C(=CC(=C1)OC)C2=CC(=CC(=C2OP3OC4=CC=CC=C4C5=CC=CC=C5O3)C(C)(C)C)OC)OP6OC7=CC=CC=C7C8=CC=CC=C8O6 | C46H44O8P2
reactant | 4-(tert-butoxycarbonylamino)-1,6-heptadiene | 0.6 mmol, 127 mg | C(C)(C)(C)OC(=O)NC(CC=C)CC=C | C12H21NO2
reactant | CO2 | C(=O)=O | CO2
product | 1-tert-butoxycarbonyl-2-(3-formylpropyl)-5,6-didehydropiperidine | quantitative yield | C(C)(C)(C)OC(=O)N1C(CCC=C1)CCCC=O | C14H23NO3
